2191-12-13 07:21:00 Physician Resident Progress Note
CCU Intern Progress Note:
   24 Hour Events:
   - Intubated on Arctic Sun cooling protocol
 ARTERIAL LINE - START [**2191-12-12**] 01:45 PM
 NASAL SWAB - At [**2191-12-13**] 04:00 AM
   MRSA screen
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Nitroglycerin - 0.51 mcg/Kg/min
   Fentanyl - 300 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-12-13**] 01:00 AM
   Fentanyl - [**2191-12-13**] 05:00 AM
   Midazolam (Versed) - [**2191-12-13**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-12-13**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 66 (43 - 92) bpm
   BP: 128/66(83) {117/57(0) - 193/100(132)} mmHg
   RR: 17 (0 - 21) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78 kg (admission): 78 kg
   Height: 69 Inch
             Total In:
                                                                  1,795 mL
                                                                    452 mL
   PO:
             TF:
   IVF:
                                                                  1,755 mL
                                                                    452 mL
   Blood products:
   Total out:
                                                                  1,727 mL
                                                                    177 mL
   Urine:
                                                                    752 mL
                                                                    177 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     68 mL
                                                                    275 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow (AC)
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   SpO2: 97%
   ABG: 7.32/45/146/23/-3
   Ve: 8.1 L/min
   PaO2 / FiO2: 365
   Physical Examination
   Eyes: (Conjunctiva and lids: WNL)
   Ears, Nose, Mouth and Throat: (Oral mucosa: WNL), (Teeth, gums and
   palette: WNL)
   Neck: (Right carotid artery: No bruit), (Left carotid artery: No bruit)
   Back / Musculoskeletal: (Chest wall structure: WNL)
   Respiratory: (Effort: WNL), (Auscultation: WNL)
   Cardiac: (Rhythm: Irregular, Bradycardic), (Palpation / PMI: WNL),
   (Auscultation: S1: WNL, S2: physiologically split, S3: Absent, S4:
   Absent)
   Abdominal / Gastrointestinal: (Bowel sounds: WNL), (Other
   abnormalities: Arctic Sun Pads)
   Genitourinary: (WNL, Foley catheter)
   Femoral Artery: (Right femoral artery: No bruit), (Left femoral artery:
   No bruit)
   Extremities / Musculoskeletal: (Digits and nails: WNL), (Dorsalis pedis
   artery: Right: 1+, Left: 1+), (Posterior tibial artery: Right: 1+,
   Left: 1+), (Edema: Right: 0, Left: 0), (Extremity details: Cool upper
   and lower extremities)
   Skin: ( WNL)
   Labs / Radiology
   188 K/uL
   10.9 g/dL
   97 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.5 mEq/L
   15 mg/dL
   109 mEq/L
   138 mEq/L
   32.0 %
   8.1 K/uL
        [image002.jpg]
   Trp, CK, CK-MB #1: 0.08, 127
   Trp, CK, CK-MB #2: 0.40, 263
   Trp, CK, CK-MB #3: 0.18, 414
                             [**2191-12-12**]  03:14 PM
                             [**2191-12-12**]  03:26 PM
                             [**2191-12-12**]  10:11 PM
                             [**2191-12-12**]  10:22 PM
                             [**2191-12-13**]  04:01 AM
                             [**2191-12-13**]  04:08 AM
   WBC
   9.7
   8.1
   Hct
   32.6
   32.0
   Plt
   192
   188
   Cr
   0.7
   0.6
   0.6
   TropT
   0.40
   0.18
   TCO2
   23
   24
   24
   Glucose
   150
   110
   97
   Other labs: PT / PTT / INR:23.4/36.0/2.3, CK / CKMB /
   Troponin-T:414/28/0.18, ALT / AST:103/107, Alk Phos / T Bili:99/0.6,
   Differential-Neuts:87.1 %, Lymph:8.4 %, Mono:4.3 %, Eos:0.2 %, Lactic
   Acid:1.2 mmol/L, Albumin:3.5 g/dL, LDH:306 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   85M with COPD, idiopathic dilated cardiomyopathy (LVEF 25%), who
   presents s/p VF arrest.
   1.  V fib arrest
 Likely [**12-19**] dCMP.  Cardiac enzymes elevated in
   setting of recent defibrillation.
   - Rewarming today
   - Plan for echocardiogram today and coronary angiography after
   rewarming
   - Consider EEG +/- imaging if no improvement in mental status after
   rewarming and reducing sedation
   - Trend cardiac biomarkers, and q6 hour labs for cooling protocol.
   - Repeat ECG in AM
   - Consider beta-blockade if heart rate tolerates, definitely start
   after cooling protocol is finished.
   - Continue aspirin for now, consider heparin if elevation in biomarkers
   of if there is polymorphic VT recurrence
   2.  Diminished bowel sounds
 KUB after rewarming
   3.  COPD - Continue Advair, Nebs
   4.  Access
 PIVs, radial a-line
   5. Prophylaxis - Pantoprazole, heparin SC
   6.  Code status - full, confirmed with wife
   7.  Communication - with wife and [**Name2 (NI) **]
   ICU [**Name (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2191-12-12**] 12:00 PM
   20 Gauge - [**2191-12-12**] 12:31 PM
   Arterial Line - [**2191-12-12**] 01:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Critical care time 40 minutes.  Patient completed cooling protocol.
   Remains intubated.  Will reduce sedation and evaluate mental status.
   Recent coronary evaluation and no evidence for myonecrosis so no
   cardiac catheterization for now.  Reassess LV function.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2191-12-13**] 10:32 ------

2191-12-16 07:20:00 Physician Resident Progress Note
CCU Intern Progress Note:
   24 Hour Events:
   - unequal pupils - ? herniation, gave mannitol, but CT head negative
   - MRI brain - pending, no signs of edema, anoxic brain injury on prelim
   read (but might be too early to see)
   - EEG: burst-suppression pattern with bursts every 5-6 seconds
   - pt's seizures better controlled on propofol drip
   - hypotensive to SBP 80s, required fluid boluses, maintenance fluids
   - bradycardia, unclear etiology, since MRI shows no edema
   - neuro: poor prognosis
   - d/w wife, [** **]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Coumadin (Warfarin) - [**2191-12-15**] 06:08 PM
   Other medications:
   Flowsheet Data as of  [**2191-12-16**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 57 (45 - 58) bpm
   BP: 92/48(61) {83/43(57) - 154/77(102)} mmHg
   RR: 17 (0 - 17) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78 kg (admission): 78 kg
   Height: 69 Inch
             Total In:
                                                                  3,792 mL
                                                                  1,528 mL
   PO:
             TF:
   IVF:
                                                                  3,792 mL
                                                                  1,528 mL
   Blood products:
   Total out:
                                                                    635 mL
                                                                    210 mL
   Urine:
                                                                    535 mL
                                                                    160 mL
   NG:
                                                                    100 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  3,157 mL
                                                                  1,318 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.39/35/146/21/-2
   Ve: 6.7 L/min
   PaO2 / FiO2: 365
   Physical Examination
   Gen:  intubated, sedated, unresponsive to all stimuli
   Ears, Nose, Mouth and Throat: pupils nonreactive, slightly asymmetric
   Neck: no bruits
   Respiratory: clear anteriorly
   Cardiac: prominent heave, irregular, no murmurs
   Abdominal / Gastrointestinal: no bowel sounds, soft, nondistended
   Genitourinary: (WNL, Foley catheter)
   Extremities / Musculoskeletal: warm, no edema
   Skin: WNL
   Labs / Radiology
   131 K/uL
   8.9 g/dL
   83 mg/dL
   0.6 mg/dL
   21 mEq/L
   4.2 mEq/L
   18 mg/dL
   115 mEq/L
   141 mEq/L
   26.1 %
   4.5 K/uL
        [image002.jpg]
                             [**2191-12-13**]  06:35 PM
                             [**2191-12-13**]  06:49 PM
                             [**2191-12-14**]  04:07 AM
                             [**2191-12-14**]  04:15 AM
                             [**2191-12-15**]  06:26 AM
                             [**2191-12-15**]  06:43 AM
                             [**2191-12-15**]  01:44 PM
                             [**2191-12-15**]  04:06 PM
                             [**2191-12-16**]  04:37 AM
                             [**2191-12-16**]  05:06 AM
   WBC
   9.1
   6.9
   4.5
   Hct
   29.7
   27.2
   26.1
   Plt
   186
   157
   131
   Cr
   0.6
   0.8
   0.8
   0.7
   0.6
   TCO2
   23
   25
   24
   25
   22
   Glucose
   90
   105
   98
   82
   89
   83
   Other labs: PT / PTT / INR:24.9/37.1/2.4, CK / CKMB /
   Troponin-T:414/28/0.18, ALT / AST:37/36, Alk Phos / T Bili:75/0.5,
   Amylase / Lipase:84/10, Differential-Neuts:85.6 %, Lymph:7.3 %,
   Mono:6.9 %, Eos:0.3 %, Fibrinogen:439 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:3.4 g/dL, LDH:230 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   85M w HTN, HL, non-obstr CAD, a-fib (on home Coumadin), dil CMP ([**Last Name (un) **]
   vs idiopathic, LVEF 25%), COPD, who presented s/p VF arrest.
   # Seizure
Patient developed seizures after rewarming, neurology
   involved. EEG monitoring was initiated. Placed on ativan gtt and
   valproic acid initially, but added propofol for frequent seizures.
   Potentially in setting on anoxic brain injury s/p cardiac arrest,
   however, prelim read [**12-15**] MRI showed no evidence anoxic brain
   injury,although can be negative in 35% of pts with anoxic brain injury.
   In the morning of [**12-15**] was noted to have unequal pupils and given
   manitol and sent for emergent head CT to r/o herniation, which was
   negative.  Per discussion with patient
s wife, no plan for surgical
   intervention if needed.
   - f/u MRI final read to evaluate extent of anoxic brain injury, f/u
   final read
   - f/u neuro recs, continue to work closely with them to co-manage this
   complicated pt, plan at this point to keep pt on CCU team in effort to
   minimize transfer of care.
   - Per neuro, off propofol today to trial monitor EEG
   - Cont. propofol for sz control otherwise
   - Cont. valproic acid
   - Check Valproate levels
   - Needs multidisciplinary team meeting today to discuss prognosis,
   which is very poor.  At baseline all patients s/p VF arrest have poor
   prognosis, estimated chance of meaningful recovery ~10%, in setting of
   prolonged seizures this prognosis is further reduced, it is highly
   unlikely in this team
s estimation that the patient will recover
   meaningful function.
   #  V fib arrest
 Likely [**12-19**] dCMP. Cardiac enzymes elevated in setting
   of recent defibrillation. s/p Arctic Sun cooling protocol. TTE showed
   EF 30-35% with regional LV systolic dysfunction c/w multivessel CAD.
   Continues to be intubated.
   - Cont. tele, no further VT noted
   - Continue aspirin for now, consider heparin if elevation in biomarkers
   of if there is polymorphic VT recurrence
   # RHYTHM: AF
 History of AF on home Coumadin. Pt now bradycardic,
   unclear etiology. Thought to be [**12-19**] CNS edema, but no apparent evidence
   on brain imaging.
   - restarted Coumadin per neuro (INR goal [**12-20**])
   - Cont. to hold BB
   - low threshold to start dopamine gtt, especially in setting of
   persistently low BPs on propofol.
   # HTN  - Now hypotensive on propofol.  Have been giving boluses of IVF,
   however need to be cautious with fluids giving low EF.
   - cont. to monitor
   - consider dopamine prn
   .
   #.  Diminished bowel sounds
 KUB unremarkable. No bowel sounds on
   exam.
   -continue bowel regimen
   -Still with some residuals, 200ml residual since MN.
   -Did take PO coumadin with effect, although with increase in INR in
   first day, unclear it this is effect of coumadin.
   -initiate trial of trophic feeds, f/u nutrition recs.
   #  COPD - Continue ipratropium. No albuterol due to concern for
   anisocoria.
   #.  Access
 PIVs, radial a-line
   #. Prophylaxis - Pantoprazole, heparin SC
   #.  Code status - full, confirmed with wife, to re-address with family
   today given overal poor prognosis
   #.  Communication - with wife and [**Name2 (NI) **]
   ICU [**Name (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2191-12-12**] 12:00 PM
   Arterial Line - [**2191-12-12**] 01:45 PM
   20 Gauge - [**2191-12-15**] 08:49 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: